US06348474B1
Methyl 3-[2-chloro-4-[(thiophene-3-yl)methyl]oxybenzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a suspension of methyl 3-[2-chloro-4-hydroxybenzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (240 mg), 3-thiophenemethanol (68 mg) and triphenylphosphine (218 mg) in dry dichloromethane were added to diethyl azodicarboxylate (139 mg) under ice-cooling. After 2 hr, the reaction mixture was stirred at room temperature. After 6 hr, to a suspension of 3-thiophenemethanol (34 mg) and triphenylphosphine (109 mg) in dry dichloromethane was added diethyl azodicarboxylate (69 mg) under ice-cooling. After 20 hr, the reaction mixture was subjected to flash silica gel chromatography (silica gel 60 ml, eluent: chloroform). The eluate was recrystallized from ethyl acetate to give the objective compound (143 mg) as colorless crystals.

reactant | methyl 3-[2-chloro-4-hydroxybenzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 240 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)O | C16H14ClN3O3
reactant | 3-thiophenemethanol | 68 mg | S1C=C(C=C1)CO | C5H6OS
reactant | triphenylphosphine | 218 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 139 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-thiophenemethanol | 34 mg | S1C=C(C=C1)CO | C5H6OS
reactant | triphenylphosphine | 109 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 69 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-[2-chloro-4-[(thiophene-3-yl)methyl]oxybenzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 143 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)OCC1=CSC=C1 | C21H18ClN3O3S
